US08222248B2
To a mixture of 4-hydroxy-3-nitrobenzoic acid (732 mg), EDCI (768 mg) and HOBt (540 mg) in DMF (8 mL) was added 3,4-dimethylaniline (484 mg) and the mixture was stirred at room temperature for 18 h. The mixture was poured into water and was extracted with EtOAc. The organic phase was washed with water (3×) and dried over sodium sulfate. The solvent was concentrated until crystallization occurred. The mixture was cooled to room temperature and the solid filtered, washed with EtOAc and dried under reduced pressure to give N-(3,4-dimethyl-phenyl)-4-hydroxy-3-nitrobenzamide as a pale-yellow solid, mp=209-212° C.; MS (m/z) 285 (M−1).

reactant | 4-hydroxy-3-nitrobenzoic acid | 732 mg | OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H5NO5
reactant | EDCI | 768 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 540 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4-dimethylaniline | 484 mg | CC=1C=C(N)C=CC1C | C8H11N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3,4-dimethyl-phenyl)-4-hydroxy-3-nitrobenzamide | CC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)O)[N+](=O)[O-])=O | C15H14N2O4
